US06964983B2
A mixture of 4-trifluoromethyl-4′-vinyl-biphenyl (1.9 g, 7.7 mmol), (4-Bromo-2-methyl-phenoxy)-acetic acid methyl ester (2.0 g, 7.7 mmol), anhydrous sodium acetate (1.2 g, 14.6 mmol), N,N-dimethylglycine (0.23 g, 2.2 mmol), and palladium acetate (0.025 g, 0.11 mmol) in 10 ml of 1-methyl-pyrrolidin-2-one was heated at 130° C. for 10 h. The reaction mixture was partitioned between 250 ml of brine and 300 ml of ethyl acetate. The total mixture was filtered through a bed of Celite filter-aid. The organic layer was washed with 5% aqueous sodium carbonate solution (3×250 ml) and brine (2×250 ml), then dried over anhydrous sodium sulfate and concentrated. The residue was purified by normal phase chromatography to give {2-methyl-4-[2-(4′-trifluoromethyl-biphenyl-4-yl)-vinyl]-phenoxy}-acetic acid methyl ester; MS m/z 427 (M+1).

reactant | 4-trifluoromethyl-4′-vinyl-biphenyl | 7.7 mmol, 1.9 g | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)C=C)(F)F | C15H11F3
reactant | (4-Bromo-2-methyl-phenoxy)-acetic acid methyl ester | 7.7 mmol, 2.0 g | COC(COC1=C(C=C(C=C1)Br)C)=O | C10H11BrO3
reactant | sodium acetate | 14.6 mmol, 1.2 g | C(C)(=O)[O-].[Na+]
reactant | N,N-dimethylglycine | 2.2 mmol, 0.23 g | CN(CC(=O)O)C | C4H9NO2
solvent | 1-methyl-pyrrolidin-2-one | 10 ml | CN1C(CCC1)=O | C5H9NO
catalyst | palladium acetate | 0.11 mmol, 0.025 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | {2-methyl-4-[2-(4′-trifluoromethyl-biphenyl-4-yl)-vinyl]-phenoxy}-acetic acid methyl ester | COC(COC1=C(C=C(C=C1)C=CC1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)C)=O | C25H21F3O3
